US04017297
A slight excess (5-10%) of gaseous ammonia is introduced into a stirring mixture of 11 parts of diallyl methoxycarbonylphosphonate (from triallyl phosphite and methyl chloroformate) and 200 parts of tetrahydrofuran. The temperature increases from 25° to 28° C. spontaneously. The mixture is then heated to 35° C. and maintained at this temperature for 2 hours. The slightly hazy solution is filtered, and solvent is removed from the filtrate at 50° C. under reduced pressure (15 mm.). The residual solid is recrystallized from benzene, giving 6 parts of white crystalline diallyl carbamoylphosphonate, m.p. 91°-94° C.

reactant | ammonia | N | H3N
reactant | diallyl methoxycarbonylphosphonate | COC(=O)P(OCC=C)(OCC=C)=O | C8H13O5P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | diallyl carbamoylphosphonate | C(N)(=O)P(OCC=C)(OCC=C)=O | C7H12NO4P
